US05068405
N-Sulfamyl-3-chloropropionamidine 2,4,5-trichlorobenzene sulfonic acid addition salt
Sulfamide (9.6 g, 0.1 mole) was added to a solution of 2,4,6-trichlorobenzenesulfonic acid (52.2 g, 0.2 mole) in 3-chloropropionitrile (51.3 g, 0.6 mole). The suspension was heated at 55-60° C., for 18 hours. At the end of the heating period, the mixture was cooled to room temperature, diluted with methylene chloride (150 ml), and filtered. The solid, thus obtained, was suspended in acetone (50 ml) and the suspension filtered and the product dried.

reactant | Sulfamide | 0.1 mole, 9.6 g | S(=O)(=O)(N)N | H4N2O2S
reactant | 2,4,6-trichlorobenzenesulfonic acid | 0.2 mole, 52.2 g | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)O | C6H3Cl3O3S
reactant | 3-chloropropionitrile | 0.6 mole, 51.3 g | ClCCC#N | C3H4ClN
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-Sulfamyl-3-chloropropionamidine 2,4,5-trichlorobenzene sulfonic acid | ClC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)O.S(N)(=O)(=O)NC(CCCl)=N | InChI=1S/C6H3Cl3O3S.C3H8ClN3O2S/c7-3-1-5(9)6(2-4(3)8)13(10,11)12;4-2-1-3(5)7-10(6,8)9/h1-2H,(H,10,11,12);1-2H2,(H2,5,7)(H2,6,8,9)
